US07365066B2
4-[2-(6-Chloro-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinoline
Add 1-aminopyridinium iodide (780 mg, 3.53 mmol), N,N-diisopropylethylamine (0.62 mL, 3.53 mmol), 1-(6-chloro-pyridin-2-yl)-2-quinolin-4-yl-ethanone (500 mg, 1.77 mmol), and ethanol (8 mL) to a sealed tube apparatus. The sealed vessel is heated at 110° C. for 5 hours. After cooling, the crude is concentrated in vacuo. Purification by flash column chromatography (Silica Gel, 25-40% acetone/hexanes) provides the title compound 119 mg (19%) as an orange solid.

reactant | 1-aminopyridinium iodide | 3.53 mmol, 780 mg | [I-].N[N+]1=CC=CC=C1
reactant | N,N-diisopropylethylamine | 3.53 mmol, 0.62 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(6-chloro-pyridin-2-yl)-2-quinolin-4-yl-ethanone | 1.77 mmol, 500 mg | ClC1=CC=CC(=N1)C(CC1=CC=NC2=CC=CC=C12)=O | C16H11ClN2O
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 4-[2-(6-Chloro-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinoline | 119 mg, 19% | ClC1=CC=CC(=N1)C1=NN2C(C=CC=C2)=C1C1=CC=NC2=CC=CC=C12 | C21H13ClN4
